US08067445B2
Step 1: 5-Methyl-benzooxazole-2-thiol
To a solution of 3,4-diaminotoluene (20.0 g, 162.6 mmol) and potassium hydroxide (11.36 g, 203.0 mmol) in H2O (40 mL) and MeOH (150 mL) was added carbon disulfide (13.3 mL, 220.8 mmol) slowly via syringe, and the reaction was heated to 78° C. for 2.5 hours. The mixture was poured over a mixture of ice (200 mL) and acetic acid (30 mL), and thick yellow precipitate formed. The mixture was stirred at 45° C. for 30 minutes, and then filtered to collect the solid precipitate, which was washed twice with H2O (40 mL total). The filter cake was triturated in a minimum of EtOAc, and then filtered and dried to give the title compound.

reactant | 3,4-diaminotoluene | 162.6 mmol, 20.0 g | NC=1C=C(C=CC1N)C | C7H10N2
reactant | potassium hydroxide | 203.0 mmol, 11.36 g | [OH-].[K+]
reactant | carbon disulfide | 220.8 mmol, 13.3 mL | C(=S)=S | CS2
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 40 mL | O | H2O
solvent | MeOH | 150 mL | CO | CH4O
product | 5-Methyl-benzooxazole-2-thiol | CC=1C=CC2=C(N=C(O2)S)C1 | C8H7NOS
